* C:\Users\user\source\repos\schematics\FMradio\simulation\Fm.asc
* Generated by LTspice 26.1.1 for Windows.
C1 N016 N015 1n
R1 N001 N016 470
R2 N001 N023 6.8k
C2 N023 0 10n
R3 N023 0 33k
C3 N017 0 2.2p
Q1 N017 N023 N016 0 2N5401
C4 N017 N024 12p
D1 0 N024 BB112
L1 N017 0 164n Rser=1m
C5 N018 N017 3.3p
R4 N018 N001 620k
R5 N005 N001 3k
Q2 N005 N018 0 0 2SC3838K
C6 N001 N005 47p V=25 Irms=0 Rser=0.2035 Lser=347p mfg="Wьrth Elektronik" pn="885012005044 WCAP-CSGP 0402" type="NP0"
C7 N006 N007 1n V=50 Irms=0 Rser=0.579 Lser=169p mfg="Wьrth Elektronik" pn="885012205057 WCAP-CSGP 0402" type="X7R"
R6 N007 N022 100k
R7 N025 N022 2.2k
C8 N001 0 10u V=16 Irms=2.12132 Rser=0.06 Lser=0 mfg="KEMET" pn="A700V106M016ATE060" type="Al electrolytic"
C9 N001 0 0.1u V=25 Irms=0 Rser=0.037 Lser=674p mfg="Wьrth Elektronik" pn="885012210008 WCAP-CSGP 1812" type="X7R"
Q3 N014 N022 0 0 BC547C
Q4 N012 N014 N025 0 BC547C
Q5 N008 N004 0 0 BC547C
R8 N001 N014 10k
R10 N025 0 470
C10 N025 0 47n
C12 N003 N004 10n V=50 Irms=0 Rser=0.0359 Lser=341p mfg="Wьrth Elektronik" pn="885012206089R WCAP-CSGP 0603" type="X7R"
R12 N001 N004 220k
R13 N001 N008 2.2k
C13 N009 N008 39p
D2 0 N009 1N4148
D3 N009 N010 1N4148
C14 N001 0 22u V=12.5 Irms=3 Rser=0.03 Lser=0 mfg="KEMET" pn="A700V226M12RATE030" type="Al electrolytic"
R14 N010 0 10k
C15 N010 0 10n
R15 N002 N001 100 tol=1 pwr=0.1
V1 N002 0 9.0
C16 N033 N032 10n
D4 0 N032 BZX55C3V3
C17 0 N033 100n
R16 N033 N032 10k
R17 0 N033 20k
Q7 N029 N033 N034 0 2N5401
R18 N034 N032 470
R19 N002 N032 1k
C18 N029 N034 8.2p
C19 N034 N032 36p
L2 N029 0 91n Rser=1m
C20 N030 N029 12p
R20 N035 0 47k
D5 N035 N030 BB112
R21 N028 N030 47k
R22 N028 N024 47k
C21 0 N028 100n
C22 N035 0 100n
R23 N036 N035 15k
C23 N036 0 4.7u V=16 Irms=0 Rser=0.007 Lser=538p mfg="Wьrth Elektronik" pn="885012108016 WCAP-CSGP 1206" type="X5R"
X§U1 0 N031 N028 pot R=10k T=.90 ;§pnba A)B)C
R24 N010 N036 15k
R25 N031 N002 180
D6 0 N031 BZX55C6V8
V2 N015 0 SFFM(0 1m 101.5Meg 75 1k) AC 1
C24 N001 0 0.1u V=25 Irms=0 Rser=0 Lser=0 mfg="Murata" pn="GCM155R71E104KE02" type="X7R"
X§U2 NC_01 0 N013 0 N020 N002 N026 NC_02 lm386 ;§pnba GAIN)IN-)IN+)GND)VOUT)VS)BYPASS)GAIN
X§U3 0 N011 N013 pot R=10k T=.5 ;§pnba A)B)C
R26 N020 N027 10 tol=1 pwr=0.1
C26 N027 0 0.1u V=100 Irms=0 Rser=0.0371 Lser=1.1p mfg="Wьrth Elektronik" pn="885382208006 WCAP-CSST 1206" type="X7R"
R§SPK N021 0 8
C27 N020 N021 220u V=25 Irms=420m Rser=0.193 Lser=1.7n mfg="Wьrth Elektronik" pn="860130475006 WCAP-ATET 10x12,5" type="Al electrolytic"
C25 N011 N010 2.2u V=35 Irms=8.4m Rser=1.5 Lser=550f mfg="Wьrth Elektronik" pn="865250540001 WCAP-ASNP 4.3x4.3" type="Al electrolytic"
R27 N012 N003 1.2k
C28 N026 0 10u V=50 Irms=115m Rser=1.4 Lser=0 mfg="Nichicon" pn="UPL1H100MAH" type="Al electrolytic"
R9 N003 N001 1k
R11 N006 N005 470
C11 N006 0 33p V=50 Irms=0 Rser=0.3212 Lser=732p mfg="Wьrth Elektronik" pn="885012006054 WCAP-CSGP 0603" type="NP0"
C29 N019 0 15p V=50 Irms=0 Rser=0.396 Lser=608p mfg="Wьrth Elektronik" pn="885012006052 WCAP-CSGP 0603" type="NP0"
.model D D
.lib C:\Users\user\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\user\AppData\Local\LTspice\lib\cmp\standard.bjt
.model BZX55C3V3 D(Is=1e-14 N=1.1 Rs=15 Cjo=25p M=0.33 Vj=0.6 Bv=3.3 Ibv=5m)
.model BB112 D(Is=1e-14 Rs=0.7 N=1.2 Cjo=58p M=0.50 Vj=0.85 Fc=0.5
+ Bv=30 Ibv=10u Tt=0 Eg=1.11 Xti=3 Kf=0 Af=1)
.model BZX55C6V8 D(Is=1e-14 N=1.1 Rs=3.5 Cjo=160p M=0.33 Vj=0.75 Bv=6.8 Ibv=5m Eg=1.11 Xti=3)
K1 L1 L2 0.03
* .tran 0 1.05m 1m 250n
.options reltol=0.15 trtol=100 abstol=100u vntol=20m gmin=1e-7 chgtol=1e-9 plotwinsize=0 numdgt=3 method=gear threads=24
.ac dec 100 100k 200Meg
* .op
* Library below included based on ModelFile attribute of instance X§U2 (C:\Users\user\Documents\LTspice\lib\sym\lm386.asy)
.lib LM386.sub
* Library below included based on ModelFile attribute of instance X§U1, X§U3 (C:\Users\user\Documents\LTspice\lib\sym\pot.asy)
.lib pot.lib
.backanno
.end
